US06919331B2
To a solution of [5-bromo-1-(3-methyl-butyl)-1H-benzoimidazol-2-yl]-methanol (1.32 g, 4.44 mmol) in DCM (20 mL) was added thionyl chloride (1.06 g, 8.88 mL) at 0° C. The final solution was stirred at 0° C. for 1 h. The solvent was evaporated and the residue triturated with EtOAc and filtered to give 1.42 g (91%) of 5-bromo-2 chloromethyl-1-(3-methyl-butyl)-1H-benzoimidazole as a white solid.

reactant | [5-bromo-1-(3-methyl-butyl)-1H-benzoimidazol-2-yl]-methanol | 4.44 mmol, 1.32 g | BrC1=CC2=C(N(C(=N2)CO)CCC(C)C)C=C1 | C13H17BrN2O
reactant | thionyl chloride | 8.88 mL, 1.06 g | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-2 chloromethyl-1-(3-methyl-butyl)-1H-benzoimidazole | 1.42 g, 91% | BrC1=CC2=C(N(C(=N2)CCl)CCC(C)C)C=C1 | C13H16BrClN2
